US07572823B2
5-Chloro-6-fluoro-1H-indole-7-carboxylic acid [4-(isopropyl-dimethyl-silanyl)-benzyl]-[2-(3-trifluoromethyl-phenyl)-ethyl]-amide was prepared in analogy to example 1 from 5-chloro-6-fluoro-1H-indole-7-carboxylic acid and [4-(isopropyl-dimethyl-silanyl)-benzyl]-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine. MS (ISP) 575.3/576.4/577.3 (100/46/40) (M+H)+.

reactant | 5-chloro-6-fluoro-1H-indole-7-carboxylic acid | ClC=1C=C2C=CNC2=C(C1F)C(=O)O | C9H5ClFNO2
reactant | [4-(isopropyl-dimethyl-silanyl)-benzyl]-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine | C(C)(C)[Si](C1=CC=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=C1)(C)C | C21H28F3NSi
product | 5-Chloro-6-fluoro-1H-indole-7-carboxylic acid [4-(isopropyl-dimethyl-silanyl)-benzyl]-[2-(3-trifluoromethyl-phenyl)-ethyl]-amide | C(C)(C)[Si](C1=CC=C(CN(C(=O)C=2C(=C(C=C3C=CNC23)Cl)F)CCC2=CC(=CC=C2)C(F)(F)F)C=C1)(C)C | C30H31ClF4N2OSi
